US08541421B2
To a solution of 2-aminocyclopent-1-enecarbonitrile (400 mg, 3.7 mmol) in 1.4-dioxane (20 mL) was added benzoyl isocyanate (545 g, 3.7 mmol). The reaction mixture was then stirred at room temperature under nitrogen overnight. The precipitate was collected by filtration, washed with 1.4-dioxane, and dried to give N-(2-cyanocyclopent-1-enylcarbamoyl)benzamide (720 mg, 76%) as a white solid. 1H NMR (400 MHz, CDCl3) δ11.33 (s, 1H), 11.22 (brs, 1H), 7.99-7.97 (m, 2H), 7.67-7.63 (m, 1H), 7.54-7.51 (m, 2H), 3.04-3.0 (m, 2H), 2.51-2.47 (m, 2H) 1.95-1.90 (m, 2H). MS 256 (MH+).

reactant | 2-aminocyclopent-1-enecarbonitrile | 3.7 mmol, 400 mg | NC1=C(CCC1)C#N | C6H8N2
reactant | benzoyl isocyanate | 3.7 mmol, 545 g | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
solvent | 1.4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(2-cyanocyclopent-1-enylcarbamoyl)benzamide | 720 mg, 76% | C(#N)C1=C(CCC1)NC(=O)NC(C1=CC=CC=C1)=O | C14H13N3O2
